US07294622B2
a. Potassium (2R,3S)-3-phenyloxirane-2-carboxylate (64a)
A stirred suspension of (1R)-1-phenylethanaminium (2R,3S)-3-phenyloxirane-2-carboxylate [K. Horada, J. Org. Chem., 31, 1407, 1966] (28.54 g, 0.10 mole) in ethanol (60 mL) and water (15 mL) was treated rapidly with a solution of KOH (9.5 g, 0.17 mole) in ethanol (60 mL). The mixture was stirred at ambient temperature for 20 min, ethyl ether (150 mL) added, the mixture stirred an additional 10 min and the white solid filtered off and washed with ethyl ether. A second crop was obtained by dilution of the filtrate with ethyl ether to 500 mL. Both samples were dried in vacuo. The pH of a small sample of crop 1 in water was 8 to 9 while a sample of crop 2 had pH=14. Crop 2 was thus stirred with 15 mL of absolute ethanol for 15 min, filtered, washed with acetone and dried in vacuo. Crop 1 (16.23 g, 80%) [α]D 25=−146° (c=1.0, H2O) and crop 2 (3.03 g 15%) [α]D 25=−143° (c=1.2, H2O). 1H NMR (300 MHz, DMSO-d6) δ2.97 (d, 1H, J=1.8 Hz), 3.66 (d, 1H, J=1.8 Hz), 7.22-7.35 (m, 5 H). HPLC (Method B): 2.74 min.

reactant | (1R)-1-phenylethanaminium (2R,3S)-3-phenyloxirane-2-carboxylate | 0.10 mole, 28.54 g | C1(=CC=CC=C1)[C@H]1[C@@H](O1)C(=O)[O-].C1(=CC=CC=C1)[C@@H](C)[NH3+]
reactant | KOH | 0.17 mole, 9.5 g | [OH-].[K+]
reactant | ethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | Potassium (2R,3S)-3-phenyloxirane-2-carboxylate | C1(=CC=CC=C1)[C@H]1[C@@H](O1)C(=O)[O-].[K+] | InChI=1S/C9H8O3.K/c10-9(11)8-7(12-8)6-4-2-1-3-5-6;/h1-5,7-8H,(H,10,11);/q;+1/p-1/t7-,8+;/m0./s1
